US05409930
2-(N-phenylsulfonylindol-3-yl)-4-carboxy-6,7-dimethoxyquinoline
Pyruvic acid (0.486 ml) is added to a suspension of (2.00 g) of N-phenylsulfonyl-3-indolecarboxaldehyde in 100 ml absolute EtOH. The mixture is heated to reflux and a solution of 3,4-dimethoxyaniline (1.074 g) in 50 ml absolute EtOH is added dropwise. The reaction is then refluxed for approximately three hours and stirred at RT for 72 hours. The yellow precipitate is collected by filtration, washed with EtOH then with ether and the solid collected. This is triturated with EtOAC/EtOH and dried and used directly in the next step.

reactant | Pyruvic acid | 0.486 ml | C(C(=O)C)(=O)O | C3H4O3
reactant | N-phenylsulfonyl-3-indolecarboxaldehyde | 2.00 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C=O | C15H11NO3S
reactant | 3,4-dimethoxyaniline | 1.074 g | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | EtOH | 100 ml | CCO | C2H6O
solvent | EtOH | 50 ml | CCO | C2H6O
product | 2-(N-phenylsulfonylindol-3-yl)-4-carboxy-6,7-dimethoxyquinoline | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=NC2=CC(=C(C=C2C(=C1)C(=O)O)OC)OC | C26H20N2O6S
